US05808062
6-[4-(Cyclohexylmethoxy)phenyl]-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4-cyclohexylmethoxy acetophenone (2.0 g, 8.61 mmol), trimethylsilyl triflate (1.91 g, 8.61 mmol), triethylamine (1.74 g, 17.22 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (4.0 g, 12.92 mmol). m.p. 187°-188° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.96-1.33 (m+1.24 d 11H), 1.61-1.87 (m, 6H), 3.4 (m, 1H), 3.86 (d, 2H), 6.76 (s, 1H), 6.92 (dd, 1H), 7.11 (m, 4H), 7.29 (dd, 1H), 7.81 (d, 2H).

reactant | 4-cyclohexylmethoxy acetophenone | 8.61 mmol, 2.0 g | C1CCC(CC1)COCC(=O)C1=CC=CC=C1 | C15H20O2
reactant | trimethylsilyl triflate | 8.61 mmol, 1.91 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 17.22 mmol, 1.74 g | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 12.92 mmol, 4.0 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-(Cyclohexylmethoxy)phenyl]-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | C1(CCCCC1)COC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C27H30O4S
